US04234578
The starting material can be prepared as follows: 8.15 g of 2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid are dissolved in 500 ml of methylene chloride containing 3.06 ml of N-methylmorpholine, the solution, from which moisture is kept excluded, is cooled to -20° C. and 4.13 ml of chloroformic acid isobutyl ester are added dropwise whilst keeping the temperature at between -15° C. and -20° C. After 30 minutes, a solution of 9.85 g of 3-acetoxymethyl-7β-amino-3-cephem-4-carboxylic acid tert.-butyl ester in 50 ml of methylene chloride is added, after which the solution is stirred for a further 15 hours whilst slowly raising the temperature to 20° C. to 25° C. The mixture is poured out into ice-cold water, neutralised with dipotassium hydrogen phosphate and extracted repeatedly with methylene chloride. The organic extracts are washed with an aqueous saturated sodium chloride solution and dried over magnesium sulphate, after which the solvent is removed under reduced pressure. The residue is recrystallised from diethyl ether and gives 3-acetoxymethyl-7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-cephem-4-carboxylic acid tert.-butyl ester, melting point 76°-78° C., thin layer chromatogram (silica gel): Rf=0.44 (system: chloroform/ethyl acetate/acetic acid, 80:19:1).

reactant | 2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid | 8.15 g | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)O | C12H17NO4S
reactant | chloroformic acid isobutyl ester | 4.13 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-acetoxymethyl-7β-amino-3-cephem-4-carboxylic acid tert.-butyl ester | 9.85 g | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)COC(C)=O | C14H20N2O5S
reactant | dipotassium hydrogen phosphate | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-acetoxymethyl-7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-cephem-4-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC=2SC(=CC2)CNC(=O)OC(C)(C)C)=O)=O)COC(C)=O | C26H35N3O8S2
